US09315491B2
4-(5-Methoxy-4-morpholin-4-yl-pyrimidin-2-yl)-phenylamine
4-[5-methoxy-2-(4-nitro-phenyl)-pyrimidin-4-yl]-morpholine (0.2 g, 1 eq) was stirred under hydrogen balloon with palladium on carbon (10 percent, 0.1 g, 0.15 eq) in a mixture of MeOH and EA (1:1, 8 mL) at room temperature overnight. The reaction mixture was then filtered through Celite, volatiles were removed in vacuo, and the residue was purified by flash chromatography to give a white solid (0.15 g, 83%).

reactant | 4-[5-methoxy-2-(4-nitro-phenyl)-pyrimidin-4-yl]-morpholine | 0.2 g, 1 eq | COC=1C(=NC(=NC1)C1=CC=C(C=C1)[N+](=O)[O-])N1CCOCC1 | C15H16N4O4
catalyst | palladium on carbon | 0.1 g, 0.15 eq | [Pd] | Pd
solvent | MeOH | CO | CH4O
solvent | EA | 8 mL | CC(OCC)=O | C4H8O2
product | 4-(5-Methoxy-4-morpholin-4-yl-pyrimidin-2-yl)-phenylamine | 0.15 g, 83% | COC=1C(=NC(=NC1)C1=CC=C(C=C1)N)N1CCOCC1 | C15H18N4O2
